US05246915
A solution of 3.6 parts of methyl 1-(2,3-dihydro-3-methyl-1H-inden-1-yl)-1H-imidazole-5-carboxylate mononitrate in 50 parts of a sodium hydroxide solution 20% is stirred for 1.5 hours at reflux temperature. After cooling, the reaction mixture is neutralized with acetic acid. The product is extracted with 1,1'-oxybisethane. The extract is dried, filtered and evaporated. The residue is crystallized from 2,2'-oxybispropane. The product is filtered off and dried, yielding 2.4 parts (90.0%) of 1-(2,3-dihydro-3-methyl-1H-inden-1-yl)-1H-imidazole-5-carboxylic acid; mp. 209.3° C. (compound 2.36).

reactant | methyl 1-(2,3-dihydro-3-methyl-1H-inden-1-yl)-1H-imidazole-5-carboxylate mononitrate | [N+](=O)(O)[O-].CC1CC(C2=CC=CC=C12)N1C=NC=C1C(=O)OC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(2,3-dihydro-3-methyl-1H-inden-1-yl)-1H-imidazole-5-carboxylic acid | 90.0% | CC1CC(C2=CC=CC=C12)N1C=NC=C1C(=O)O | C14H14N2O2
